US07435823B2
A heterogeneous mixture of 1-chloro-2-fluoro-3-nitro-5-(trifluoromethyl)benzene (1.25 mL, 8.2 mmol), K2CO3 (3.44 g, 24.6 mmol), N1,N1,N3-trimethylpropane-1,3-diamine (1.26 mL, 8.61 mmol) and THF were allowed to stir at RT for 45 min. The THF was removed under reduced pressure and reconstituted in EtOAc (50 ml). The organic layer was washed with water (20 ml), brine (20 ml), dried over anhydrous sodium sulfate, filtered and concentrated to an oil. The concentrated oil was taken up in EtOH (20 ml) to which Raney nickel (2.5 g wet, washed) was added. The reduction was monitored and after 1 h, another portion of Raney nickel (3.8 g, wet, washed) was added. The reaction was allowed to stir for an additional 30 min., and filtered through Celite, washed with EtOH (10 mL) and concentrated. The crude residue was purified via flash chromatography (silica gel, gradient elution 0 to 25% MeOH in CH2Cl2) to afford 6-chloro-N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine as a yellow oil. MS m/z=310.1 [M+H]+. Calc'd for C13H19ClF3N3: 309.8.

reactant | 1-chloro-2-fluoro-3-nitro-5-(trifluoromethyl)benzene | 8.2 mmol, 1.25 mL | ClC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])F | C7H2ClF4NO2
reactant | K2CO3 | 24.6 mmol, 3.44 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N1,N1,N3-trimethylpropane-1,3-diamine | 8.61 mmol, 1.26 mL | CN(CCCNC)C | C6H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 6-chloro-N1-(3-(dimethylamino)propyl)-N1-methyl-4-(trifluoromethyl)benzene-1,2-diamine | ClC=1C=C(C=C(C1N(C)CCCN(C)C)N)C(F)(F)F | C13H19ClF3N3
